US06461389B1
Preparation of 1-[(3-Hydroxy-4-methylphenylcarbamoyl)methyl]-3-methyl-3H-imidazol-1-ium Chloride
36.6 g (0.183 mol) of 2-chloro-N—(3-hydroxy-4-methylphenyl)acetamide and 29.2 ml (0.366 mol) of 1-methyl-1H-imidazole in 180 ml of toluene were refluxed for one and a half hours.

reactant | 2-chloro-N—(3-hydroxy-4-methylphenyl)acetamide | 0.183 mol, 36.6 g | ClCC(=O)NC1=CC(=C(C=C1)C)O | C9H10ClNO2
reactant | 1-methyl-1H-imidazole | 0.366 mol, 29.2 ml | CN1C=NC=C1 | C4H6N2
solvent | toluene | 180 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[(3-Hydroxy-4-methylphenylcarbamoyl)methyl]-3-methyl-3H-imidazol-1-ium Chloride | [Cl-].OC=1C=C(C=CC1C)NC(=O)C[N+]1=CN(C=C1)C | InChI=1S/C13H15N3O2.ClH/c1-10-3-4-11(7-12(10)17)14-13(18)8-16-6-5-15(2)9-16;/h3-7,9H,8H2,1-2H3,(H-,14,17,18);1H
